US07723345B2
An Emrys process vial (2-5 ml) for microwave was charged with 4-chloro-6-(2,2,2-trifluoro-1-phenyl-ethoxy)-pyrimidine (30 mg, 0.11 mmol), 4-borono-L-phenylalanine (32 mg, 0.16 mmol), 1 ml of acetonitrile and 0.6 ml of water. Aqueous sodium carbonate (0.42 ml, 1M) was added to above solution followed by 10 mol percent of POPd2 (dihydrogen di-μ-chlorodichlorobis(di-tert-butylphosphinito-κP) dipalladate. The reaction vessel was sealed and heated to 120° C. for 30 minutes by microwave. After cooling, the reaction mixture was evaporated to dryness. The residue was dissolved in 2.5 ml of methanol, and the product was purified with Prep-LC to give 4.8 mg of 2-amino-3-{4-[6-(2,2,2-trifluoro-1phenyl-ethoxy)-pyrimidin-4-yl]-phenyl}-propionic acid, yield 11%. 1H-NMR (400 MHz, CD3OD): δ 3.20 (m, 1H), 3.40 (m, 1H), 4.25 (t, 1H), 6.82 (dd, 1H), 7.43 (m, 5H), 7.57 (s, 1H), 7.60 (m, 2H), 8.10 (d, 2H), 8.75 (s, 1H).

reactant | 4-chloro-6-(2,2,2-trifluoro-1-phenyl-ethoxy)-pyrimidine | 0.11 mmol, 30 mg | ClC1=NC=NC(=C1)OC(C(F)(F)F)C1=CC=CC=C1 | C12H8ClF3N2O
reactant | 4-borono-L-phenylalanine | 0.16 mmol, 32 mg | B(O)(O)C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H12BNO4
reactant | acetonitrile | 1 ml | C(C)#N | C2H3N
reactant | sodium carbonate | 1M, 0.42 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 0.6 ml | O | H2O
product | 2-amino-3-{4-[6-(2,2,2-trifluoro-1phenyl-ethoxy)-pyrimidin-4-yl]-phenyl}-propionic acid | 4.8 mg, yield 11% | NC(C(=O)O)CC1=CC=C(C=C1)C1=NC=NC(=C1)OC(C(F)(F)F)C1=CC=CC=C1 | C21H18F3N3O3
